US07129232B2
To a solution of 4-methoxybenzyl 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetamido]-3-chloromethyl-3-cephem-4-carboxylate (1.48 g) in N,N-dimethylformamide (3.0 ml) was added N-(trimethylsilyl)acetamide (1.42 g), and the mixture was stirred at room temperature for 30 minutes. To the solution was added potassium-iodide (504 mg) and the mixture was stirred at room temperature for 30 minutes. To the reaction mixture was added a solution of tert-butyl 3-[({[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}carbonyl)amino]-1-azetidinecarboxylate (1.20 g) in N,N-dimethylformamide (2.2 ml), and the whole mixture was stirred at 50° C. for 16 hours. To the resulting reaction mixture was added ethyl acetate (200 ml), and the solution was washed successively with water (50 ml), 10% aqueous sodium trifluoroacetate solution (50 ml×2) and brine (50 ml), dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated to about 10 ml in vacuo. The concentrate was poured into diisopropyl ether (160 ml), and the resulting precipitate was collected by filtration and dried in vacuo. To a solution of the solid in methylene chloride (8.64 ml) were added anisole (2.88 ml) and trifluoroacetic acid (8.64 ml). The resulting solution was stirred at room temperature for 3 hours and poured into diisopropyl ether (160 ml). The resulting precipitate was collected by filtration and dried in vacuo to give a crude product (2.22 g), which was purified by preparative HPLC utilizing ODS column eluting with a mixture of acetonitrile and phosphate buffer (pH 5.5). The eluate containing a desired product was concentrated to about 20 ml in vacuo. The concentrate was desalted by preparative HPLC utilizing ODS column, and the fraction eluted with 8% aqueous acetonitrile was concentrated to about 10 ml in vacuo and lyophilized to give 3-[(3-amino-4-{[(3-azetidinylamino)carbonyl]amino}-2-methyl-1-pyrazolio)methyl]-7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-cephem-4-carboxylate (220 mg) as an amorphous solid.

reactant | 4-methoxybenzyl 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetamido]-3-chloromethyl-3-cephem-4-carboxylate | 1.48 g | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CCl)C(=O)OCC2=CC=C(C=C2)OC)C1=O)=N/OC(C)(C)C(=O)OC(C)(C)C | C28H33ClN6O8S2
reactant | N-(trimethylsilyl)acetamide | 1.42 g | C[Si](NC(C)=O)(C)C | C5H13NOSi
reactant | potassium-iodide | 504 mg | [I-].[K+]
reactant | tert-butyl 3-[({[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}carbonyl)amino]-1-azetidinecarboxylate | 1.20 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)NC1CN(C1)C(=O)OC(C)(C)C | C32H36N6O3
solvent | N,N-dimethylformamide | 3.0 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2.2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 3-[(3-amino-4-{[(3-azetidinylamino)carbonyl]amino}-2-methyl-1-pyrazolio)methyl]-7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-cephem-4-carboxylate | 220 mg | NC=1N([N+](=CC1NC(=O)NC1CNC1)CC=1CS[C@H]2N(C1C(=O)[O-])C([C@H]2NC(\C(=N/OC(C)(C)C(=O)O)\C2=NSC(=N2)N)=O)=O)C | C24H30N12O8S2
